US06878700B1
N-Carbomethoxymethyl-N-(3-(2-oxopyrrolidin-1-yl)prop-1-yl)amine
Methyl bromoacetate (1.35 mL, 14.3 mmol) was added dropwise to a solution of 3-aminopropyl-2-pyrrolidinone (2.0 mL, 14.3 mmol) and diisopropylethylamine (2.7 mL) in CH2Cl2. The reaction was stirred for 12 hours and was then concentrated in vacuo, and carried forward without further purification.

reactant | Methyl bromoacetate | 14.3 mmol, 1.35 mL | BrCC(=O)OC | C3H5BrO2
reactant | 3-aminopropyl-2-pyrrolidinone | 14.3 mmol, 2.0 mL | NCCCN1C(CCC1)=O | C7H14N2O
reactant | diisopropylethylamine | 2.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-Carbomethoxymethyl-N-(3-(2-oxopyrrolidin-1-yl)prop-1-yl)amine | C(=O)(OC)CNCCCN1C(CCC1)=O | C10H18N2O3
